US07015218B1
1-(3,4-Dichlorophenyl)-N-{3-cyano-4-[4-(3,4,5,6-tetrahydro-2H-pyran-4-yl)piperazin-1-yl]phenyl}-5-methylpyrazole-4-carboxamide 1 hydrate
By the reaction and treatment in the same manner as in Example 64 using 1-(3,4-dichlorophenyl)-5-methylpyrazole-4-carboxylic acid (1.0 g) and 5-amino-2-[4-(3,4,5,6-tetrahydro-2H-pyran-4-yl)piperazin-1-yl]benzonitrile (1.1 g), the title compound (0.6 g) was obtained, melting point: 242° C.

reactant | 1-(3,4-dichlorophenyl)-5-methylpyrazole-4-carboxylic acid | 1.0 g | ClC=1C=C(C=CC1Cl)N1N=CC(=C1C)C(=O)O | C11H8Cl2N2O2
reactant | 5-amino-2-[4-(3,4,5,6-tetrahydro-2H-pyran-4-yl)piperazin-1-yl]benzonitrile | 1.1 g | NC=1C=CC(=C(C#N)C1)N1CCN(CC1)C1CCOCC1 | C16H22N4O
product | 1-(3,4-Dichlorophenyl)-N-{3-cyano-4-[4-(3,4,5,6-tetrahydro-2H-pyran-4-yl)piperazin-1-yl]phenyl}-5-methylpyrazole-4-carboxamide | 0.6 g | ClC=1C=C(C=CC1Cl)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCN(CC1)C1CCOCC1)C#N | C27H28Cl2N6O2
